US06350749B1
To a solution of 5-(2-bromophenyl)cyclohexane-1,3-dione (mp174-175° C.; 1.07 g) in DMF (15 ml) was added 60% sodium hydride (0.18 g), and the mixture was stirred, under argon atmosphere, at room temperature for 15 minutes. To the mixture was added chloroacetone (0.36 ml), and the mixture was stirred at 150° C. overnight (13 hours). The reaction solution was cooled and concentrated under reduced pressure. To the residue was added ice-water, and the mixture was extracted with ethyl acetate. The upper layer was washed with saturated brine, dried (anhydrous magnesium sulfate), and concentrated under reduced pressure, and the residue was subjected to silica gel chromatography and eluted with ethyl acetate/hexane to give 6-(2-bromophenyl)-3-methyl-4,5,6,7-tetrahydrobenzofuran-4-one (0.28 g).

reactant | 5-(2-bromophenyl)cyclohexane-1,3-dione | 1.07 g | BrC1=C(C=CC=C1)C1CC(CC(C1)=O)=O | C12H11BrO2
reactant | sodium hydride | 0.18 g | [H-].[Na+]
reactant | chloroacetone | 0.36 ml | ClCC(C)=O | C3H5ClO
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 6-(2-bromophenyl)-3-methyl-4,5,6,7-tetrahydrobenzofuran-4-one | 0.28 g | BrC1=C(C=CC=C1)C1CC2=C(C(=CO2)C)C(C1)=O | C15H13BrO2
